US06562976B2
b) [5-(tert-Butyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanol
At 0° C., 1.15 ml (4 mmol) of sodium bis-(2-methoxyethoxy)-aluminium dihydride (65% strength in toluene) were added dropwise to 600 mg (0.93 mmol) of [5-(tert-butyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanone dissolved in 6 ml of toluene. After 3.5 hours, the reaction was quenched with methanol, the mixture was extracted with ethyl acetate and the organic phase was washed with potassium-sodium tartrate solution and saturated aqueous sodium bicarbonate solution and dried. The solvent is distilled off under reduced pressure and the residue is then purified over a silica gel column using toluene/ethyl acetate. This gives a total of 0.56 g of a colourless foam.

reactant | sodium bis-(2-methoxyethoxy)-aluminium dihydride | 4 mmol, 1.15 ml | [H-].[H-].COCCO[Al+]OCCOC.[Na+]
reactant | [5-(tert-butyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanone | 0.93 mmol, 600 mg | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(=O)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)F)F | C36H42F5NO2Si
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | [5-(tert-Butyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanol | 0.56 g | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(O)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)F)F | C36H44F5NO2Si
